US08491931B2
(1R,2S)-2-[(Methoxycarbonyl)amino]-1-(2,5-dimethoxyphenyl)-1-propanol
To a stirred solution of ketone i.e. (S)-2-[(methoxycarbonyl)amino]-1-(2,5-dimethoxyphenyl)-1-propanone (20 g, 74.9 mmol) and dimethylphenyl silane (10.7 g, 78.6 mmol) in dry DCM (500 cm3) at 0° C. in an ice bath was added dropwise trithioroacetic acid (TFA) (50 cm3). The solution was stirred at 0° C. for 1 h and then quenched by the addition of sodium hydroxide (500 cm3, 1 N). The organic layer was dried and concentrated under reduced pressure to give a yellow oil which solidified on standing. This solid was crystallized from ether/hexane to give the product as a white crystalline solid (15.6 g, 75%). 1H NMR (250 MHz; C2HCl3) 1.03 (3H, d, J7.0, CH3), 3.04 (1H, d, J4.3, OH), 3.68 (3H, s, COCH3), 3.78 (3H, s, OCH3), 3.80 (3H, s, OCH3), 3.94-3.99 (1H, m, H-2), 5.05-5.15 (2H, m, H-1 and NH), 6.72-6.85 (2H, m, ArH) 6.97 (1H, d, J 2.0, ArH).

reactant | (S)-2-[(methoxycarbonyl)amino]-1-(2,5-dimethoxyphenyl)-1-propanone | 74.9 mmol, 20 g | COC(=O)N[C@H](C(=O)C1=C(C=CC(=C1)OC)OC)C | C13H17NO5
reactant | dimethylphenyl silane | 78.6 mmol, 10.7 g | C[SiH](C1=CC=CC=C1)C | C8H12Si
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 500 cm3 | C(Cl)Cl | CH2Cl2
product | (1R,2S)-2-[(Methoxycarbonyl)amino]-1-(2,5-dimethoxyphenyl)-1-propanol | 15.6 g, 75% | COC(=O)N[C@H]([C@H](O)C1=C(C=CC(=C1)OC)OC)C | C13H19NO5
